US08541592B2
CuCN (140 mg, 1.6 mmol) and 2-((S)-1-(4-bromophenyl)ethylamino)-5-methyl-5-(trifluoromethyl)thiazol-4(5H)-one (150 mg, 0.39 mmol) and 2 mL of DMF were combined in a sealed tube and heated to 150° C. for 12 h. The residue was purified by column chromatography (10 to 60% EA/Hex, 40 g) to give 4-((S)-1-(5-methyl-4-oxo-5-(trifluoromethyl)-4,5-dihydrothiazol-2-ylamino)ethyl)benzonitrile as a slightly yellow solid.

reactant | CuCN | 1.6 mmol, 140 mg | C(#N)[Cu]
reactant | 2-((S)-1-(4-bromophenyl)ethylamino)-5-methyl-5-(trifluoromethyl)thiazol-4(5H)-one | 0.39 mmol, 150 mg | BrC1=CC=C(C=C1)[C@H](C)NC=1SC(C(N1)=O)(C(F)(F)F)C | C13H12BrF3N2OS
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-((S)-1-(5-methyl-4-oxo-5-(trifluoromethyl)-4,5-dihydrothiazol-2-ylamino)ethyl)benzonitrile | CC1(C(N=C(S1)N[C@@H](C)C1=CC=C(C#N)C=C1)=O)C(F)(F)F | C14H12F3N3OS
